US09388189B2
(S)-tert-Butyl (1-(5-((2-hydroxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate
(S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (250 mg, 0.52 mmol) was treated with 2-mercaptophenol (80 μl, 0.80 mmol), potassium carbonate (110 mg, 0.8 mmol) and copper(I) iodide (150 mg, 0.79 mmol) according to the method described in Preparation 44. The crude was purified using SP1® Purification System (0%-25%, hexane-ethyl acetate) to give 252 mg (64% yield) to the title compound as an oil.

reactant | (S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.52 mmol, 250 mg | IC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C19H21IN4O3
reactant | 2-mercaptophenol | 0.80 mmol, 80 μl | SC1=C(C=CC=C1)O | C6H6OS
reactant | potassium carbonate | 0.8 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.79 mmol, 150 mg | [Cu]I
product | (S)-tert-Butyl (1-(5-((2-hydroxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 64% yield | OC1=C(C=CC=C1)SC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C25H26N4O4S
